US07419999B2
Intermediate 40.1. Methyl 4-{2-[(2R)-2((1E,3R,7R)-7-{[tert-butyl(dimethyl)silyl]oxy}-3-hydroxyoct-1-enyl)-5-oxopyrrolidin-1-yl}ethyl}benzoate
To a solution of (S)-2-methyl-CBS-oxazaborolidine (1.0 M in toluene, 0.4 mL, 0.4 mmol) in anhydrous THF (10 mL) at 0° C. was added Borane-THF complex (1.0 M, 0.4 mL, 0.4 mmol) dropwise. The mixture was stirred for 15 minutes. Methyl 4-{2-[(2R)-2((1E,7R)-7-{[tert-butyl(dimethyl)silyl]oxy}-3-oxooct-1-enyl)-5-oxopyrrolidin-1-yl}ethyl}benzoate (200 mg, 0.4 mmol) in THF (1 mL) was added dropwise. The mixture was stirred for 3 hours. The mixture was quenched with addition of 1 mL of the saturated ammonia chloride and was dilute with EtOAc (20 mL). The organic layer was washed with brine (3×5 mL), dried over MgSO4. The residue was used for the next reaction without purification.

reactant | (S)-2-methyl-CBS-oxazaborolidine | 0.4 mmol, 1.0 M, 0.4 mL | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | Methyl 4-{2-[(2R)-2((1E,7R)-7-{[tert-butyl(dimethyl)silyl]oxy}-3-oxooct-1-enyl)-5-oxopyrrolidin-1-yl}ethyl}benzoate | 0.4 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CCCC(/C=C/[C@@H]1N(C(CC1)=O)CCC1=CC=C(C(=O)OC)C=C1)=O)C | C28H43NO5Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Methyl 4-{2-[(2R)-2((1E,3R,7R)-7-{[tert-butyl(dimethyl)silyl]oxy}-3-hydroxyoct-1-enyl)-5-oxopyrrolidin-1-yl}ethyl}benzoate | [Si](C)(C)(C(C)(C)C)O[C@@H](CCC[C@H](/C=C/[C@@H]1N(C(CC1)=O)CCC1=CC=C(C(=O)OC)C=C1)O)C | C28H45NO5Si
